US07368578B2
To a solution of 3-methoxy-4-[(2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde (1.20 g) in tetrahydrofuran (10 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.14 g) at room temperature. After stirring the reaction mixture for 2 hrs, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give {3-methoxy-4-[(2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]phenyl}methanol as a colorless oil (1.18 g, yield 98%).

reactant | 3-methoxy-4-[(2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]benzaldehyde | 1.20 g | COC=1C=C(C=O)C=CC1OCC=1N=C(SC1)N1CCCCC1 | C17H20N2O3S
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.14 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | {3-methoxy-4-[(2-piperidin-1-yl-1,3-thiazol-4-yl)methoxy]phenyl}methanol | 1.18 g, yield 98% | COC=1C=C(C=CC1OCC=1N=C(SC1)N1CCCCC1)CO | C17H22N2O3S
